US04493843
A solution of hydrogen chloride in ethanol (37% w/v, 20 ml) was added to a solution of (RS)-2-(n-undecyl)indoline-4-carboxylic acid (15.0 g) in ethanol (80 ml) and acetone (170 ml). After 30 seconds, anhydrous diethyl ether (800 ml) was added and the product was collected and washed with fresh anhydrous diethyl ether to give (RS)-2-(n-undecyl)indoline-4-carboxylic acid hydrochloride (14.2 g) in the form of a white powder, m.p. 220°-230° C. (with decomposition).

reactant | hydrogen chloride | Cl | ClH
reactant | (RS)-2-(n-undecyl)indoline-4-carboxylic acid | 15.0 g | C(CCCCCCCCCC)C1NC=2C=CC=C(C2C1)C(=O)O | C20H31NO2
reactant | diethyl ether | 800 ml | C(C)OCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | acetone | 170 ml | CC(=O)C | C3H6O
product | (RS)-2-(n-undecyl)indoline-4-carboxylic acid hydrochloride | 14.2 g | Cl.C(CCCCCCCCCC)C1NC=2C=CC=C(C2C1)C(=O)O | InChI=1S/C20H31NO2.ClH/c1-2-3-4-5-6-7-8-9-10-12-16-15-18-17(20(22)23)13-11-14-19(18)21-16;/h11,13-14,16,21H,2-10,12,15H2,1H3,(H,22,23);1H
